US04179276
An emulsion of 14 g of 3-carbethoxythiomorpholine in 50 ml of n-hexane was added dropwise to a solution of 14 g of 4-chloro-2-fluorophenylisocyanate in 60 ml of anhydrous ether at 15° to 28° C. with stirring. A heavy oil formed after the addition. The oil crystallized after stirring at room temperature for 15 min. The precipitate was collected by filtration to give 24.3 g of 3-carbethoxy-4-(4-chloro-2-fluorophenylaminocarbonyl)thiomorpholine, m.p. 111.5°-112.5° C.

reactant | 3-carbethoxythiomorpholine | 14 g | C(=O)(OCC)C1NCCSC1 | C7H13NO2S
reactant | 4-chloro-2-fluorophenylisocyanate | 14 g | ClC1=CC(=C(C=C1)N=C=O)F | C7H3ClFNO
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | ether | 60 ml | CCOCC | C4H10O
product | 3-carbethoxy-4-(4-chloro-2-fluorophenylaminocarbonyl)thiomorpholine | 24.3 g | C(=O)(OCC)C1N(CCSC1)C(=O)NC1=C(C=C(C=C1)Cl)F | C14H16ClFN2O3S
